* source HARTELY OSCILLATOR
C_C3         N01243 N01221  1u  TC=0,0 
L_L1         0 N01221  1m  
R_R4         0 N01189  2.7k TC=0,0 
R_R2         0 N01193  4.7k TC=0,0 
C_C2         0 N01189  10u  TC=0,0 
L_L2         N01243 0  1m  
V_V1         N01143 0 5v
C_C4         N01221 N01185  22u  TC=0,0 
C_C1         N01243 N01193  22u  TC=0,0 
Q_Q1         N01185 N01193 N01189 Q2N2222
R_R1         N01193 N01143  10k TC=0,0 
R_R3         N01185 N01143  3.6k TC=0,0 
