* source NONINVERTIN OPAMP
R_R1         N00445 N00123  1k TC=0,0 
R_R         load 0 N00142  10k TC=0,0 
V_V1         N00265 0 12v
V_V2         0 N00284 12v
R_R2         N00123 N00142  1k TC=0,0 
V_V3         N00445 0  AC 0
+SIN 0 100mv 1k 0 0 0
