* source CASCADED CE AMPLIFIER 
R_R2         0 N01296  10k TC=0,0 
C_C3         N02120 N01292  10u  TC=0,0 
R_R6         0 N01388  470 TC=0,0 
R_R1         N01296 N01250  47k TC=0,0 
V_V1         N01250 0 12v
C_C2         0 N01388  100u  TC=0,0 
R_R3         N01292 N01250  4.7k TC=0,0 
V_V2         N01314 0  
+SIN 0 10mv 1k 0 0 0
R_R4         N01388 N01350  470 TC=0,0 
C_C1         N01314 N01296  10u  TC=0,0 
Q_Q1         N01292 N01296 N01350 Q2N2222
R_R9         N02116 N01250  4.7k TC=0,0 
R_R8         0 N02120  10k TC=0,0 
C_C6         N02158 N02116  10u  TC=0,0 
Q_Q2         N02116 N02120 N02174 Q2N2222
R_R11         0 N02212  470 TC=0,0 
R_R10         N02212 N02174  470 TC=0,0 
R_R5         0 N02158  47k TC=0,0 
C_C5         0 N02212  100u  TC=0,0 
R_R7         N02120 N01250  47k TC=0,0 
