* source CEAMPLFIER
Q_Q1         N00370 N00374 N00420 Q2N2222
R_R1         N00374 N00346  47k TC=0,0 
R_R2         0 N00374  10k TC=0,0 
R_R3         N00370 N00346  4.7k TC=0,0 
R_R4         N00664 N00420  470 TC=0,0 
C_C1         N00392 N00374  10u  TC=0,0 
C_C2         0 N00664  100u  TC=0,0 
C_C3         N00409 N00370  10u  TC=0,0 
V_V1         N00346 0 12v
V_V2         N00392 0  
+SIN 0 10mv 1k 0 0 0
R_R5         0 N00409  47k TC=0,0 
R_R6         0 N00664  470 TC=0,0 
